US07381736B2
{3-[2-(3,4-Dichloro-phenylamino)-thiazol-4-yl]-phenoxy}-phenyl-acetic acid methyl ester was prepared as per procedure I using (3,4-dichloro-phenyl)-thiourea and [3-(2-Bromo-acetyl)-phenoxy]-phenyl-acetic acid methyl ester using Procedure I.

reactant | (3,4-dichloro-phenyl)-thiourea | ClC=1C=C(C=CC1Cl)NC(=S)N | C7H6Cl2N2S
reactant | [3-(2-Bromo-acetyl)-phenoxy]-phenyl-acetic acid methyl ester | COC(C(C1=CC=CC=C1)OC1=CC(=CC=C1)C(CBr)=O)=O | C17H15BrO4
product | {3-[2-(3,4-Dichloro-phenylamino)-thiazol-4-yl]-phenoxy}-phenyl-acetic acid methyl ester | COC(C(C1=CC=CC=C1)OC1=CC(=CC=C1)C=1N=C(SC1)NC1=CC(=C(C=C1)Cl)Cl)=O | C24H18Cl2N2O3S
